US04104388
10.0 g (54.6 mM) Saccharin and 10.9 g (109.2 mM) N-methylpiperazine are refluxed in 50 ml of hexamethylphosphoramide for 6.5 hours, and the reaction mixture is allowed to stand overnight at room temperature. The resulting precipitate is filtered off, washed with 100 ml toluene, to yield N,N-dimethyl-1,2-benzisothiazole-3-amine 1,1-dioxide. After standing for a day the combined filtrate and toluene washings yield the crystalline product which is filtered off, washed with toluene, and recrystallized from toluene. The resulting free base (3-(4-methyl-1-piperazinyl)-1,2-benzoisothiazole, 1,1-dioxide) is taken up in hot ethyl acetate and shaken with 10% aqueous HCl. The precipitated salt is filtered from the two phases, washed with ethyl acetate, and dried at 80°/vacuum to give 3.9 g of the title compound, m.p. 323°-324°.

reactant | Saccharin | 54.6 mM, 10.0 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | N-methylpiperazine | 109.2 mM, 10.9 g | CN1CCNCC1 | C5H12N2
solvent | hexamethylphosphoramide | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | N,N-dimethyl-1,2-benzisothiazole-3-amine 1,1-dioxide | CN(C1=NS(C2=C1C=CC=C2)(=O)=O)C | C9H10N2O2S
